US05112998
In 4 ml of acetone was dissolved 4.9 mg (0.01 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate, followed by addition of 1 ml of a 1 mmol/1 solution of p-toluenesulfonic acid in acetone (containing 0.001 mmole of p-toluenesulfonic acid). The mixture was stirred at room temperature for 12 hours. From the reaction mixture thus obtained, the solvent was distilled off under reduced pressure and the residue was diluted with methylene chloride. This methylene chloride solution was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane =1:5, v/v) to recover 2.7 mg of 3β-acetoxy-1α,2α-epoxy-7α-hydroxypregn-5-ene-20-carbaldehyde (yield: 67%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 0.01 mmole, 4.9 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | acetone | 0.001 mmole | CC(=O)C | C3H6O
product | 3β-acetoxy-1α,2α-epoxy-7α-hydroxypregn-5-ene-20-carbaldehyde | 2.7 mg, yield: 67% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C24H34O5
